Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / lisinopril / simvastatin / atorvastatin
 
Attending: ___.
 
Chief Complaint:
palpitations 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with a history of palpitations, rheumatoid 
arthritis, HTN and HLD who presents with palpitations and 
diapharesis. She notes she was reading and then all of a sudden 
had severe palpitations worse than she has ever had "heart going 
a mile a minute". She googled heart attacks in women and took 
two aspirin as she was worried that is what she was having. The 
sensation slowly self-resolved after about 15 minutes. Given her 
concern she came to the ED. She then had a few more in the ED 
waiting room associated with nausea.  
She also returned recently from a month long trip in ___. 
Since then she has noticed increased constipation and insomnia 
with increased urinary frequency. No fevers, chills, back pain, 
dysuria, urgency, sob or leg pain.  
Of note, she has a history of palpitations, with holter showing 
NSR while symptomatic.  
In the ED initial vitals were:  
97 80 172/85 18 100/RA  
- Labs were significant for trop <0.01, ddimer 471, BUN:Cr 31:1. 
WBC 11.1 with 84%PMN. Urinalysis showed large leuks, neg nitr, 
11 WBC and few baceria, 2 epi  
- Patient was given zofran, ceftriaxone and 1L IVF.  
Vitals prior to transfer were: 97.8 129/78 74 18 97/RA  
On the floor, she denies further symptoms but notes that she had 
ovarian pain when examined in the ED and is concerned about 
this. Last BM was a few days ago.  
Review of Systems:  

 
Past Medical History:
atypical cp  
htn  
hld  
RA  
palpitations 
 
Social History:
___
Family History:
FAMILY HISTORY:  
Father had pancreatic ca, mother had gallbladder ca and chf. 
sisters have afib, one has RA. Other sibling died of lung ca  

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
Vitals - 98.2 114/74 18 97/RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, soft I/VI systolic murmur at ___  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing. moving all 4 extremities 
with purpose. 1+ edema of R leg.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact. decreased sensation along 
lateral edge of right ___ digit  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 

DISCHARGE PHSYICAL EXAM
98.1 114/55 68 18 95% ON ra
TELE nsr rates ___
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, soft I/VI systolic murmur at RUSB  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing. moving all 4 extremities 
with purpose. 1+ edema of R leg.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact. decreased sensation along 
lateral edge of right ___ digit  
SKIN: warm and well perfused, no excoriations 
 
Pertinent Results:
ADMISSION LABS

___ 08:15PM BLOOD WBC-11.1*# RBC-4.55 Hgb-13.4 Hct-39.3 
MCV-86 MCH-29.4 MCHC-34.0 RDW-13.7 Plt ___
___ 08:15PM BLOOD Neuts-84.4* Lymphs-9.4* Monos-4.7 Eos-1.2 
Baso-0.3
___ 08:15PM BLOOD Glucose-101* UreaN-31* Creat-1.0 Na-138 
K-3.5 Cl-101 HCO3-24 AnGap-17
___ 08:15PM BLOOD cTropnT-<0.01
___ 08:33PM BLOOD D-Dimer-471

DISCHARGE LABS 

___ 09:36AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:36AM BLOOD Glucose-89 UreaN-21* Creat-0.9 Na-141 
K-4.0 Cl-105 HCO3-28 AnGap-12
___ 09:36AM BLOOD Calcium-9.1 Phos-3.7 Mg-1.7
___ 09:36AM BLOOD TSH-PND
___ 08:05PM URINE RBC-2 WBC-11* Bacteri-FEW Yeast-NONE 
Epi-2 TransE-<1
___ 08:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG

Micro: blood cx x 2 pending NGTD
 
Brief Hospital Course:
# Palpitations: The patient has a history of palpitations for 
which she has been followed by cardiology. She had a holter 
monitor in ___ which showed normal sinus rhythm when she was 
symptomatic. D-dimer was negative, cardiac enzymes were negative 
X 2. She had a TSH was normal  at 1.3.. Her EKG showed NSR with 
some U waves, however her electrolytes were normal. she was 
monitored on tele and rates were ___ to ___ sinus rhythm. The 
etiology of her palpitations is unclear. She possibly anxiety 
related although she denies. She was discharged and recommend to 
discuss getting an event monitor if she feel like her palpations 
are getting more severe or different in nature.

# Urinary tract infection: She reports increased frequency but 
no urgency/dysuria. Mildly elevated WBC positive UA. She 
received 1 dose of CTX in the ED and discharged on 2 day of 
cipro for a ___HRONIC ISSUES:  
# RA: Well controlled on plaquenil alternating 200mg and 400mg 
every other day.  
- continue home regimen  
# HLD:  
- continue home pravastatin  
# Hypertension: continued on home amlodipine and spironalactone 

Transitional Issue
- consider event monitor as an outpatient if continues to have 
increased frequency and palpitations 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Mobic (meloxicam) 7.5 mg oral daily 
3. Hydroxychloroquine Sulfate 200 mg PO ASDIRECTED 
4. Omeprazole 40 mg PO DAILY 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4h prn sob 
6. Restasis (cycloSPORINE) 0.05 % ophthalmic BID 
7. Amlodipine 10 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
10. Pravastatin 40 mg PO DAILY 
11. Spironolactone 25 mg PO DAILY 
12. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. hydrochlorothiazide 25 mg oral daily 
5. Hydroxychloroquine Sulfate 200 mg PO ASDIRECTED 
6. Mobic (meloxicam) 7.5 mg oral daily 
7. Omeprazole 40 mg PO DAILY 
8. Pravastatin 40 mg PO DAILY 
9. Spironolactone 25 mg PO DAILY 
10. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*3 Tablet Refills:*0
11. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4h prn sob 
12. Restasis (cycloSPORINE) 0.05 % ophthalmic BID 
13. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
14. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
palpitations
urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure participating in your care at ___. You were 
admitted to the hospital because you were having palpitations. 
We did blood work and monitored your heart rhythm which was 
normal and showed no evidence of abnormal heart rhythm or signs 
of a heart attack.  We recommend that you follow up with your 
cardiologist to get an event monitor if these palpitations get 
worse. 

We also found that you have an urinary tract infection. We will 
send you home with 2 days of antibiotics.

Please take all medications as prescribed and please keep all 
follow up appointments. 
 
Followup Instructions:
___